US05744606
100 g (268 mmol) of 1-(diphenylmethyl)-3-oxoquinuclidinium bromide, 66 mg (0.133 mmol) of bis(1,5-cyclooctadiene)dirhodium(I) dichloride, 145 mg (0.267 mmol) of (S)-1-[(R)-2-(diphenylphosphino)ferrocenyl]ethyl-di-tert-butylphosphine (IIIa, mirror image; corresponding to an educt/catalyst molar ratio of 1000) and 500 ml of degassed methanol were introduced into an autoclave (1liter) under argon. The reaction mixture was hydrogenated for 19 hours at 75° C. and 10-14 bar of H2. The mixture was then cooled, filtered and evaporated. The residue was taken up with 200 ml of water and100 ml of ethyl acetate and the aqueous phase was washed again twice with 50 ml of ethyl acetate. The aqueous phase was adjusted to pH 14 with sodium hydroxide solution (30 percent) and evaporated to dryness. The residue was extracted four times with 100 ml of dichloromethane and the combined organic extracts were dried over MgSO4 and evaporated to give 33.0 g (96.6 percent) of (R)-3-quinuclidinol in the form of a white crystalline solid. Recrystallization from ethyl acetate gave 28.3 g (83 percent) of (R)-3-quinuclidinol with 58 percent ee. Other data concerning the product was:

reactant | 1-(diphenylmethyl)-3-oxoquinuclidinium bromide | 268 mmol, 100 g | [Br-].C1(=CC=CC=C1)C([N+]12CC(C(CC1)CC2)=O)C2=CC=CC=C2
catalyst | bis(1,5-cyclooctadiene)dirhodium(I) dichloride | 0.133 mmol, 66 mg | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Cl-].[Cl-].[Rh].[Rh]
solvent | methanol | 500 ml | CO | CH4O
product | (R)-3-quinuclidinol | 33.0 g, 96.6 percent | N12C[C@@H](C(CC1)CC2)O | C7H13NO
